US04474786
Preparation of Methyl 4,6-Dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one-2-carboxylate
Add 6.0 gm of 4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one-2-carboxylic acid to 100 ml of methanol. Dropwise, at 0° C., add 10 ml of thionyl chloride to the system. Heat the system at reflux for 6 hours. Remove the solvent by stripping. Isolate the title compound.

reactant | 4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one-2-carboxylic acid | 6.0 gm | C=1C2=C(NC(C1C(=O)O)=O)OCC1=C2C=CC=C1 | C13H9NO4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 4,6-Dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one-2-carboxylate | C=1C2=C(NC(C1C(=O)OC)=O)OCC1=C2C=CC=C1 | C14H11NO4
